US08557983B2
benzyl 4-(piperidin-1-ylmethylene)piperidine-1-carboxylate
To a solution of benzyl 4-formylpiperidine-1-carboxylate (22.35 g) in toluene (300 mL) was added piperidine (11.55 g). The mixture was stirred at reflux under a Dean-Stark trap overnight. The mixture was then concentrated under vacuum and the residue was used directly in the next step.

reactant | benzyl 4-formylpiperidine-1-carboxylate | 22.35 g | C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | piperidine | 11.55 g | N1CCCCC1 | C5H11N
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 4-(piperidin-1-ylmethylene)piperidine-1-carboxylate | N1(CCCCC1)C=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O2
